US07737149B2
N-[5-[2-(3,5-dimethoxyphenyl)ethyl]-2H-pyrazol-3-yl]-2-[3-(methoxymethyl)piperazin-1-yl]pyrimidine-5-carboxamide
Trimethylaluminium (2M in toluene, 1.596 mL, 3.19 mmol) was added dropwise to a solution of 5-[2-(3,5-dimethoxyphenyl)ethyl]-2H-pyrazol-3-amine (314 mg, 1.27 mmol) and methyl 2-(3-(methoxymethyl)piperazin-1-yl)pyrimidine-5-carboxylate (338 mg, 1.27 mmol) in toluene (6.35 mL) at 25° C. The resulting mixture was stirred at 60° C. for 18 h under nitrogen. The reaction mixture was added to methanol (100 mL) and treated with HCl (2N aqueous solution, until pH was 7 or lower). The crude product was purified by ion exchange chromatography, using a SCX column. The desired product was eluted from the column using 7M NH3/MeOH and fractions were evaporated to dryness to afford the crude product as a yellow dry film. The crude product was purified by preparative HPLC, using decreasingly polar mixtures of water (containing 1% NH3) and MeCN as eluents. Fractions containing the desired compound were evaporated to dryness to afford the title compound (348 mg, 57%) as a white solid.

reactant | Trimethylaluminium | 3.19 mmol, 2M, 1.596 mL | C[Al](C)C
reactant | 5-[2-(3,5-dimethoxyphenyl)ethyl]-2H-pyrazol-3-amine | 1.27 mmol, 314 mg | COC=1C=C(C=C(C1)OC)CCC=1C=C(NN1)N | C13H17N3O2
reactant | methyl 2-(3-(methoxymethyl)piperazin-1-yl)pyrimidine-5-carboxylate | 1.27 mmol, 338 mg | COCC1CN(CCN1)C1=NC=C(C=N1)C(=O)OC | C12H18N4O3
reactant | HCl | 2N, pH was 7 | Cl | ClH
solvent | toluene | 6.35 mL | C1(=CC=CC=C1)C | C7H8
solvent | methanol | 100 mL | CO | CH4O
product | N-[5-[2-(3,5-dimethoxyphenyl)ethyl]-2H-pyrazol-3-yl]-2-[3-(methoxymethyl)piperazin-1-yl]pyrimidine-5-carboxamide | 348 mg, 57% | COC=1C=C(C=C(C1)OC)CCC=1C=C(NN1)NC(=O)C=1C=NC(=NC1)N1CC(NCC1)COC | C24H31N7O4
